### PR TITLE
[Merged by Bors] - feat: formulate identity principle for meromorphic functions on topologically perfect subsets

### PR DESCRIPTION
**Pull request by kebekus**
Add a simple, but useful, reformulation of the identity principle for meromorphic functions on topologically perfect subsets. To facilitate application, establish (closures of) open subsets in perfect topological spaces are preperfect sets.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/IsolatedZeros.lean [hunk 1]
```diff
@@ -94,4 +94,13 @@ theorem eventuallyEq_nhdsNE_of_eventuallyEq_codiscreteWithin (hf : MeromorphicAt
...
   apply (hf.sub hg).eventuallyEq_zero_nhdsNE_of_eventuallyEq_zero_codiscreteWithin h₁x h₂x h
 
+/-
+Variant of `MeromorphicAt.eventuallyEq_nhdsNE_of_eventuallyEq_codiscreteWithin`, as a statement
+about meromorphic functions that agree outside a set codiscrete within a perfect set.
+-/
+theorem eventuallyEq_nhdsNE_of_eventuallyEq_codiscreteWithin_preperfect (hf : MeromorphicAt f x)
+    (hg : MeromorphicAt g x) (hx : x ∈ U) (hU : Preperfect U) (h : f =ᶠ[codiscreteWithin U] g) :
+    f =ᶠ[𝓝[≠] x] g :=
+  hf.eventuallyEq_nhdsNE_of_eventuallyEq_codiscreteWithin hg hx (hU x hx) h
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/IsolatedZeros.lean:104]: I wonder if it might be nice to have the following version too (assuming I am correct that this is true and haven't screwed up the argument in my head):

```lean
theorem eventually_nhdsSet_eventuallyEq_codiscreteWithin (hf : MeromorphicOn f U)
    (hg : MeromorphicOn g U) (hU : Preperfect U) (h : f =ᶠ[codiscreteWithin U] g) :
    ∀ᶠ V in 𝓝ˢ U, f =ᶠ[codiscreteWithin V] g := by
  sorry
```

You can actually have a slightly stronger (but perhaps less useful) statement I think, which is that if `s ∈ codiscreteWithin U` and `Set.EqOn f g s`, then there is some `V ∈ 𝓝ˢ U` such that `Set.EqOn f g (V \ (U \ s))`

File: Mathlib/Topology/Perfect.lean [hunk 2]
```diff
@@ -125,6 +125,21 @@ theorem Preperfect.perfect_closure (hC : Preperfect C) : Perfect (closure C) :=
   rw [closure_eq_cluster_pts] at hx
   exact hx
 
+/-
+Open subsects in perfect spaces are preperfect.
+-/
+theorem PerfectSpace.preperfect_of_isOpen [PerfectSpace α] {U : Set α} (hU : IsOpen U) :
```
Comment (j-loreaux) [inline Mathlib/Topology/Perfect.lean]: I think I would just call this `IsOpen.preperfect` for dot notation.
```suggestion
theorem IsOpen.preperfect [PerfectSpace α] {U : Set α} (hU : IsOpen U) :
```

File: Mathlib/Topology/Perfect.lean [hunk 3]
```diff
@@ -125,6 +125,21 @@ theorem Preperfect.perfect_closure (hC : Preperfect C) : Perfect (closure C) :=
...
+    Preperfect U := by
+  rw [← inter_univ (a := U)]
+  exact Preperfect.open_inter univ_preperfect hU
```
Comment (j-loreaux) [inline Mathlib/Topology/Perfect.lean]:
```suggestion
  simpa using PerfectSpace.univ_preperfect.open_inter hU
```

File: Mathlib/Topology/Perfect.lean [hunk 4]
```diff
@@ -125,6 +125,21 @@ theorem Preperfect.perfect_closure (hC : Preperfect C) : Perfect (closure C) :=
...
+
+/-
+Closures of open subsects in perfect spaces are preperfect, hence perfect.
+-/
+theorem PerfectSpace.preperfect_closure_of_isOpen [PerfectSpace α] {U : Set α} (hU : IsOpen U) :
+    Preperfect (closure U) :=
+  (PerfectSpace.preperfect_of_isOpen hU).perfect_closure.2
```
Comment (j-loreaux) [inline Mathlib/Topology/Perfect.lean]: It seems like you wrote the wrong statement (with `Preperfect` instead of `Perfect`). I'll note that if you change the name of the previous theorem as I indicated, then the proof of this one is much shorter, and maybe makes it less necessary, but I'll leave it up to you.
```suggestion
theorem IsOpen.perfect_closure [PerfectSpace α] {U : Set α} (hU : IsOpen U) :
    Perfect (closure U) :=
  hU.preperfect.perfect_closure
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

File: Mathlib/Analysis/Meromorphic/IsolatedZeros.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/Meromorphic/IsolatedZeros.lean:104]: @j-loreaux Thanks! I implemented your suggestion, but had to modify the statement to make it compile -- note that in `  ∀ᶠ V in 𝓝ˢ U, ...` the symbol V refers to a point, and not to the open neighborhood that you probably had in mind.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
